US08039463B2
To a mixture of 40% aqueous solution of Methylamine hydrochloride (2.175 g, 33.2 mmol) and Triethyl amine (3.75 g, 37.18 mmol) at 0° C., added 4-Nitro-benzoyl chloride (4.6 g, 24.78 mmol) and stirred for 30 mins. The reaction was monitored by TLC (50% Ethyl acetate in Hexane). The solid precipitate so obtained was filtered, washed with ice cold water and dried to afford 4 g (89%) of N-Methyl-4-nitro-benzamide. 1H NMR: (DMSO-d6): δ 8.78 (s, 1H), 8.32 (d, 2H), 8.06 (d, 2H), 2.8 (s, 3H).

reactant | Methylamine hydrochloride | 33.2 mmol, 2.175 g | Cl.CN
reactant | Triethyl amine | 37.18 mmol, 3.75 g | C(C)N(CC)CC | C6H15N
reactant | 4-Nitro-benzoyl chloride | 24.78 mmol, 4.6 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | N-Methyl-4-nitro-benzamide | 4 g, 89% | CNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C8H8N2O3
